US08217045B2
Step 1.4: 6[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-1-naphthalenecarboxylic acid, methyl ester
A mixture of 6-hydroxy-1-naphthalenecarboxylic acid, methyl ester (1.01 g, 5 mmol), triethylamine (1.55 mL, 6 mmol) and N,N-dimethyl-4-pyridineamine (0.30 g, 2.5 mmol) in CH2Cl2 (25 mL) is treated with a solution of chloro(1,1-dimethylethyl)diphenylsilane (1.55 mL, 6 mmol) in CH2Cl2 (10 mL) and stirred at room temperature overnight. The mixture is washed with saturated aqueous NaHCO3, dried (Na2SO4) and solvent is evaporated off under reduced pressure to give a residue, which is purified by column chromatography (SiO2; hexane/CH2Cl2 1:1) to afford the title compound as an oil.

reactant | 6-hydroxy-1-naphthalenecarboxylic acid, methyl ester | 5 mmol, 1.01 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C12H10O3
reactant | triethylamine | 6 mmol, 1.55 mL | C(C)N(CC)CC | C6H15N
reactant | chloro(1,1-dimethylethyl)diphenylsilane | 6 mmol, 1.55 mL | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C16H19ClSi
catalyst | N,N-dimethyl-4-pyridineamine | 2.5 mmol, 0.30 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 6[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-1-naphthalenecarboxylic acid, methyl ester | CC(C)(C)[Si](OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28O3Si
